US04140717
Following the general procedure of Example 1, to a solution of 5.025 parts of 2,2-dimethoxycyclooctanone oxime in 40 parts dry methylene chloride at about 35° C., was added 1.78 parts elemental chlorine over about 3/4 of an hour. The contents were stirred at 25° to 30° C. for about 21/2 hours after the addition. The contents were then treated according to the procedure of Example 1 to yield 5.3 parts of product 3-chloro-2,2-dimethoxycyclooctanone oxime as determined by elemental analysis and nuclear magnetic resonance spectroscopy.

reactant | 2,2-dimethoxycyclooctanone oxime | COC1(C(CCCCCC1)=NO)OC | C10H19NO3
reactant | chlorine | ClCl | Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-chloro-2,2-dimethoxycyclooctanone oxime | ClC1C(C(CCCCC1)=NO)(OC)OC | C10H18ClNO3
